US05661160
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid (2-morpholino-ethyl)-amide hydrochloride
Prepare by the method of example 27.3.1 using 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-triethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (2.8 g, 5.24 mmol) and 4-phenyl-piperidine-4-carboxylic acid (2-morpholino-ethyl)-amide hydrochloride (1.87 g, 35.2 mmol). Chromatograph on silica gel eluting sequentially with 50% ethyl acetate/hexane and then 6% methanol/dichloromethane to give the title compound.

reactant | 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-triethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 5.24 mmol, 2.8 g | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OCC)OCC)OCC)=O)CCCS(=O)(=O)[O-]
reactant | 4-phenyl-piperidine-4-carboxylic acid (2-morpholino-ethyl)-amide hydrochloride | 35.2 mmol, 1.87 g | Cl.O1CCN(CC1)CCNC(=O)C1(CCNCC1)C1=CC=CC=C1
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methanol dichloromethane | CO.ClCCl
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid (2-morpholino-ethyl)-amide hydrochloride | Cl.O1CCN(CC1)CCNC(=O)C1(CCN(CC1)CCC1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C1=CC(=C(C=C1)Cl)Cl)C1=CC=CC=C1 | InChI=1S/C40H50Cl2N4O6.ClH/c1-49-34-25-29(26-35(50-2)36(34)51-3)37(47)46-19-12-39(28-46,31-9-10-32(41)33(42)27-31)11-16-44-17-13-40(14-18-44,30-7-5-4-6-8-30)38(48)43-15-20-45-21-23-52-24-22-45;/h4-10,25-27H,11-24,28H2,1-3H3,(H,43,48);1H
